US07700628B2
F. 2-[4-(Morpholin-4-yl)-2-(1-tert-butoxycarbonylpiperidin-4-yloxy)benzoylamino]-N-(5-chloropyridin-2-yl)benzamide
The 2-[4-fluoro-2-(1-tert-butoxycarbonylpiperidin-4-yloxy)benzoylamino]-N-(5-chloropyridin-2-yl)benzamide (203 mg, 0.35 mmol) was diluted with morpholine (4 mL, 45.9 mmol). The mixture was heated to 129° C. for 2 days. The reaction was diluted with methylene chloride (100 mL) and washed with water (2×10 mL). The aqueous layers were combined and extracted with ethyl acetate (100 mL). The organic layers were combined, dried over sodium sulfate, filtered, and concentrated. The crude residue was purified by flash column chromatography (about 25 g silica, 10% EtOAc/CH2Cl2 to 20% EtOAc/CH2Cl2) to give the desired product (125 mg, 0.20 mmol, 56%) as a white solid.

reactant | 2-[4-fluoro-2-(1-tert-butoxycarbonylpiperidin-4-yloxy)benzoylamino]-N-(5-chloropyridin-2-yl)benzamide | 0.35 mmol, 203 mg | FC1=CC(=C(C(=O)NC2=C(C(=O)NC3=NC=C(C=C3)Cl)C=CC=C2)C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C29H30ClFN4O5
reactant | morpholine | 45.9 mmol, 4 mL | N1CCOCC1 | C4H9NO
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-[4-(Morpholin-4-yl)-2-(1-tert-butoxycarbonylpiperidin-4-yloxy)benzoylamino]-N-(5-chloropyridin-2-yl)benzamide | 0.20 mmol, 125 mg, 56% | N1(CCOCC1)C1=CC(=C(C(=O)NC2=C(C(=O)NC3=NC=C(C=C3)Cl)C=CC=C2)C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C33H38ClN5O6
